US07592477B2
Step g) Formation of ethyl oxo{[4-(trifluoromethyl)benzyl][4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amino}acetate
To a cold (0° C.) solution of N-[4-(trifluoromethyl)benzyl]-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine hydrochloride (45 mg, 0.09 mmol) and DIEA (24 mg, 0.19 mmol) in anhydrous DCM (1 mL) was added dropwise the chloro-oxo-acetic acid ethyl ester (24 mg, 0.19 mmol). The reaction mixture was stirred at 0° C. for 3 h. Evaporation of the solvents under vacuum gave an orange oil. This crude product was purified by column chromatography over silica gel (AcOEt/c-Hex 1/9) to give the title compound as a colorless oil (38 mg, 75%). 1H NMR (CDCl3, 300 MHz) δ 8.10 (d, J=8.3 Hz, 1H), 8.02 (d, J=8.3 Hz, 1H), 7.56 (d, J=8.2 Hz, 1H), 7.53 (d, J=8.2 Hz, 1H), 7.39-7.21 (m, 4H), 4.50 (s, 2H), 4.37 (s, 2H), 4.29 (dq, J1=7.1 Hz, J2=2.3 Hz, 2H), 2.72 (t, J=7.4 Hz, 2H), 1.85-1.65 (m, 2H), 1.41-1.05 (m, 19H), 0.89 (t, J=7.0 Hz, 3H). HPLC (Condition A), Rt: 7.5 min (HPLC purity: 88.8%).

reactant | N-[4-(trifluoromethyl)benzyl]-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine hydrochloride | 0.09 mmol, 45 mg | Cl.FC(C1=CC=C(CNCC2=CC=C(C=C2)C2=NC(=NO2)CCCCCCCCCCC)C=C1)(F)F
reactant | DIEA | 0.19 mmol, 24 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | chloro-oxo-acetic acid ethyl ester | 0.19 mmol, 24 mg | C(C)OC(C(=O)Cl)=O | C4H5ClO3
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | ethyl oxo{[4-(trifluoromethyl)benzyl][4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amino}acetate | 38 mg, 75% | O=C(C(=O)OCC)N(CC1=CC=C(C=C1)C1=NC(=NO1)CCCCCCCCCCC)CC1=CC=C(C=C1)C(F)(F)F | C32H40F3N3O4
